US03991197
9.8 G. of 4-[trans-1-chloro-2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine are treated with 52 ml. of sodium methylate solution (10 g. of sodium per 100 ml. of methanol) and heated at 50° C. for 3 hours. Then the reaction mixture is treated with water and extracted three times with ethyl acetate. The organic phase is washed with water, dried over sodium sulfate and evaporated under reduced pressure. The residue is crystallized with ethyl acetate/isopropyl ether to yield 4-(5,5-dimethyl-2-(3,4,5-trimethoxyphenyl)-1-pyrrolin-4-yl)-pyridine, melting point 143°-144° C. This compound is, as in Example 37, reduced with sodium borohydride to the cis-pyrrolidinyl compound. This example shows therefore the isomerization of trans/pyrrolidines by way of a pyrroline to the corresponding cis-pyrrolidine.

reactant | 4-[trans-1-chloro-2,2-dimethyl-5-(3,4,5-trimethoxyphenyl)-3-pyrrolidinyl]-pyridine | ClN1C([C@H](C[C@@H]1C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=NC=C1)(C)C | C20H25ClN2O3
reactant | sodium methylate | 100 ml, 10 g | C[O-].[Na+]
solvent | water | O | H2O
product | 4-(5,5-dimethyl-2-(3,4,5-trimethoxyphenyl)-1-pyrrolin-4-yl)-pyridine | CC1(C(CC(=N1)C1=CC(=C(C(=C1)OC)OC)OC)C1=CC=NC=C1)C | C20H24N2O3
